US09351965B2
A reaction mixture of 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (0.1 mmol, 49.5 mg), HCl salt of (3-amino-1-hydroxycyclohexyl)(phenyl)methanone (0.1 mmol, 25.5 mg), HATU (0.1 mmol, 38 mg) and DIEA (0.15 mL) in DMA (0.65 mL) was stirred at room temperature for overnight. The product, N-(3-benzoyl-3-hydroxycyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide, was obtained after rotary evaporation of solvent.

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 0.1 mmol, 49.5 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | HCl | Cl | ClH
reactant | (3-amino-1-hydroxycyclohexyl)(phenyl)methanone | 0.1 mmol, 25.5 mg | NC1CC(CCC1)(O)C(=O)C1=CC=CC=C1 | C13H17NO2
reactant | HATU | 0.1 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 0.65 mL | CC(=O)N(C)C | C4H9NO
product | N-(3-benzoyl-3-hydroxycyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | C(C1=CC=CC=C1)(=O)C1(CC(CCC1)NC(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=NC=C1)C)O | C46H40N4O3
